US08609688B2
Synthesis of tert-butyl (1-{4-[(6-{3-[4-(dimethylcarbamoyl)piperidin-1-yl]phenyl}-3-nitropyridin-2-yl)amino]phenyl}cyclobutyl)carbamate
To a solution of tert-butyl (1-{4-[(6-chloro-3-nitropyridin-2-yl)amino]phenyl}cyclobutyl)carbamate (4.1 g, 9.8 mmol) in toluene/EtOH/saturated NaHCO3 (200/200/20 mL), were added N,N-dimethyl-1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidine-4-carboxamide. (4.2 g, 12 mmol), Pd(PPh4)3 (563 mg, 0.49 mmol). The mixture was heated at 100° C. for 18 h. The mixture was filtered through celite, separated and evaporated. The residue was purified with silica gel column chromatography (hexane/ethyl acetate/methanol, 85:15:1.5) to give the titled compound as a pale red solid (5.4 g, 91%)

reactant | tert-butyl (1-{4-[(6-chloro-3-nitropyridin-2-yl)amino]phenyl}cyclobutyl)carbamate | 9.8 mmol, 4.1 g | ClC1=CC=C(C(=N1)NC1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C20H23ClN4O4
reactant | N,N-dimethyl-1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidine-4-carboxamide | CN(C(=O)C1CCN(CC1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C20H31BN2O3
solvent | toluene EtOH | 20 mL | C1(=CC=CC=C1)C.CCO
product | tert-butyl (1-{4-[(6-{3-[4-(dimethylcarbamoyl)piperidin-1-yl]phenyl}-3-nitropyridin-2-yl)amino]phenyl}cyclobutyl)carbamate | 5.4 g, 91% | CN(C(=O)C1CCN(CC1)C=1C=C(C=CC1)C1=CC=C(C(=N1)NC1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O)[N+](=O)[O-])C | C34H42N6O5
